US04118461
1-[β-(2,4-dichlorophenyl) hexyl]-imidazole hydrochloride
In 30.0 g (0.101 mole) of 1-[β-(2,4-dichlorophenyl)hexyl]imidazole dissolved in 200 ml of ether is bubbled dry hydrogen chloride gas until the mixture is acidic to litmus. A colorless solid forms which is separated by filtration to give 24.5 g. of the hydrochloride salt which is identified by nmr.

reactant | 1-[β-(2,4-dichlorophenyl)hexyl]imidazole | 0.101 mole, 30.0 g | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)CCCC | C15H18Cl2N2
solvent | ether | 200 ml | CCOCC | C4H10O
product | 1-[β-(2,4-dichlorophenyl) hexyl]-imidazole hydrochloride | Cl.ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)CCCC | InChI=1S/C15H18Cl2N2.ClH/c1-2-3-4-12(10-19-8-7-18-11-19)14-6-5-13(16)9-15(14)17;/h5-9,11-12H,2-4,10H2,1H3;1H
